US05214037
To a solution of 4-chloroacetoacetic acid methyl ester (700 mg : 4.65 mMol.) and propionaldehyde (405 mg : 6.97 mMol.) and acetic acid (28 mg : 0.47 mMol.) in dichloromethane (3 ml) is added a solution of piperidine (24 mg : 0.28 mMol.) in dichloromethane (0.5 ml), and the mixture is stirred at -27° C. for 120 minutes. The reaction mixture is washed with dilute hydrochloric acid and water and concentrated under reduced pressure at lower than 15° C. to give 4-chloro-2-propylideneacetoacetic acid methyl ester (818 mg). Yield: 92%.

reactant | 4-chloroacetoacetic acid methyl ester | 4.65 mMol, 700 mg | COC(CC(=O)CCl)=O | C5H7ClO3
reactant | propionaldehyde | 6.97 mMol, 405 mg | C(CC)=O | C3H6O
reactant | acetic acid | 0.47 mMol, 28 mg | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
catalyst | piperidine | 0.28 mMol, 24 mg | N1CCCCC1 | C5H11N
product | 4-chloro-2-propylideneacetoacetic acid methyl ester | 818 mg, Yield: 92% | COC(C(C(=O)CCl)=CCC)=O | C8H11ClO3
